US04997947
12 g of potassium tert.-butoxide are added to a solution of 14 g of 6-(thiophen-3-yl)-pyridine-2,3-dicarboxylic acid diethyl ester and 6 g of 2-amino-2,3-dimethyl- butyramide in 100 ml of dry toluene while stirring and the solution is heated at 80° C. for 5 hours. The reaction solution is then poured onto ice, the phases are separated and the aqueous phase is acidified with 10 ml of glacial acetic acid. After some time the above acid crystallises out and is filtered off with suction and dried. In this manner 13.5 g of 6-(thiophen-3-yl)-2-(5-isopropyl-5-methyl-4-oxo-imidazol-2-yl)-pyridine-3-carboxylic acid having a melting point of 253°-257° C. are obtained.

reactant | potassium tert.-butoxide | 12 g | CC(C)([O-])C.[K+]
reactant | 6-(thiophen-3-yl)-pyridine-2,3-dicarboxylic acid diethyl ester | 14 g | C(C)OC(=O)C1=NC(=CC=C1C(=O)OCC)C1=CSC=C1 | C15H15NO4S
reactant | 2-amino-2,3-dimethyl- butyramide | 6 g | NC(C(=O)N)(C(C)C)C | C6H14N2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(thiophen-3-yl)-2-(5-isopropyl-5-methyl-4-oxo-imidazol-2-yl)-pyridine-3-carboxylic acid | 13.5 g | S1C=C(C=C1)C1=CC=C(C(=N1)C=1NC(C(N1)=O)(C)C(C)C)C(=O)O | C17H17N3O3S
